US06919338B2
4-amino-N-phenylthiophene-3-carboxamide
4-(tert-butoxycarbonylamino)-N-phenylthiophene-3-carboxamide (300 mg, 0.94 mmol) in CH2Cl2 (3 ml) was treated with TFA (0.36 ml, 4.71 mmol) at room temperature for 2.5 hours. The solvent was evaporated, the residue was dissolved in methanol/HCl, ether was added to the solution, the precipitate was recovered to give title compound (210 mg, 87%) which was used as is in the next step.

reactant | 4-(tert-butoxycarbonylamino)-N-phenylthiophene-3-carboxamide | 0.94 mmol, 300 mg | C(C)(C)(C)OC(=O)NC=1C(=CSC1)C(=O)NC1=CC=CC=C1 | C16H18N2O3S
reactant | TFA | 4.71 mmol, 0.36 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
product | 4-amino-N-phenylthiophene-3-carboxamide | 210 mg, 87% | NC=1C(=CSC1)C(=O)NC1=CC=CC=C1 | C11H10N2OS
